US08487094B2
Methyl 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate (30 mg, 0.1 mmol) was dissolved in anhydrous NH3 in EtOH (5 mL). Then the mixture was stirred at rt overnight. The solvent was removed in vacuo to give the crude product, which was purified by preparative HPLC to provide 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl) nicotinamide (10 mg, 34%). LC-MS Method 2 tR=1.022 min, m/z=478; 1H NMR (CD3OD): 1.31 (m, 1H), 1.56 (m, 3H), 1.59 (m, 1H), 1.91 (m, 2H), 2.17-2.28 (m, 1H), 2.33 (m, 1H), 2.44 (m, 1H), 3.14 (m, 1H), 3.44 (m, 2H), 5.60 (m, 1H), 7.04-7.17 (m, 4H), 7.29 (m, 2H), 7.49 (m, 2H), 8.41 (m, 1H), 8.86 (m, 1H), 8.97 (m, 1H).

reactant | Methyl 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate | 0.1 mmol, 30 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1)CCCO | C28H29FN2O5
reactant | NH3 | N | H3N
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl) nicotinamide | 10 mg, 34% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC=C(C(=O)N)C1)CCCO | C27H28FN3O4
